US07056925B2
2-{[tert-butyl(dimethyl)silyl]oxy}-5-chloroaniline
A solution of 2-amino-4-chlorophenol (14.3 g, 100 mmol), tert-butyldimethylsilyl chloride (18 g, 120 mmol) and imidazole (14 g, 200 mmol) in DMF (250 mL) was stirred at room temperature for 24 hours, concentrated, and partitioned between brine (300 mL) and ethyl acetate (300 mL). The aqueous phase was extracted with ethyl acetate. The combined phases were dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 15% ethyl acetate/hexanes to provide 18.5 g (71.7% )of the desired product. MS (DCI/NH3) m/z 258 (M+H)+; 1H NMR (300 MHz, CDCl3) δ 6.70 (d, J=2.71 Hz, 1H), 6.64 (d, J=8.5 Hz, 1H), 6.57 (dd, J=2.7 and 8.5 Hz, 1H), 3.75 (br s, 2H), 1.01 (s, 9H), 0.23 (s, 6H).

reactant | 2-amino-4-chlorophenol | 100 mmol, 14.3 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | tert-butyldimethylsilyl chloride | 120 mmol, 18 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 200 mmol, 14 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 2-{[tert-butyl(dimethyl)silyl]oxy}-5-chloroaniline | [Si](C)(C)(C(C)(C)C)OC1=C(N)C=C(C=C1)Cl | C12H20ClNOSi
